US08536203B2
3-(3,4-dimethoxy-5-nitrophenyl)-4-(2-(trifluoromethyl)pyridin-3-yl)isoxazole (0.79 g, 2 mmol) was taken up in dichloromethane (15 mL) and the yellowish suspension was cooled to −78° C. under argon whereupon boron tribromide (4.5 g, 18 mmol) was added dropwise. The reddish reaction mixture was allowed to warm to room temperature and stirred for 18 hours, then carefully poured into ice-water (100 mL) and allowed to stir for 1 hour. The yellow precipitate was filtered off, washed with water and dried over P2O5 under vacuum. Trituration with boiling ethanol gave 3-nitro-5-(4-(2-(trifluoromethyl)pyridin-3-yl)isoxazol-3-yl)benzene-1,2-diol as a yellow solid, 0.47 g (64%).

reactant | 3-(3,4-dimethoxy-5-nitrophenyl)-4-(2-(trifluoromethyl)pyridin-3-yl)isoxazole | 2 mmol, 0.79 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NOC=C1C=1C(=NC=CC1)C(F)(F)F | C17H12F3N3O5
reactant | boron tribromide | 18 mmol, 4.5 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-nitro-5-(4-(2-(trifluoromethyl)pyridin-3-yl)isoxazol-3-yl)benzene-1,2-diol | [N+](=O)([O-])C1=C(C(=CC(=C1)C1=NOC=C1C=1C(=NC=CC1)C(F)(F)F)O)O | C15H8F3N3O5
